US06589984B1
Et3N (130 μl) and methanesulfonyl chloride (24 μl) were added to a suspension of 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one (40 mg) in THF (5 ml), and the mixture was stirred at room temperature for one hour. The reaction solution was poured into aqueous KHSO4 and extracted with AcOEt, and the organic layer was rinsed with saturated saline and dried with MgSO4, and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=2/1) to obtain 6-(benzofuran-2-yl)-3,5-dimethyl-4-methanesulfonyloxy-2H-pyran-2-one.

reactant | Et3N | 130 μl | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 24 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | 40 mg | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)O)C | C15H12O4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-(benzofuran-2-yl)-3,5-dimethyl-4-methanesulfonyloxy-2H-pyran-2-one | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)OS(=O)(=O)C)C | C16H14O6S
